US07691882B2
5-Bromo-2-chloromethyl-pyridine hydrochloride
To a toluene (20.0 mL) solution of (5-bromo-pyridin-2-yl)-methanol (4.70 g, 25.0 mmol) described in Manufacturing Example 54-1-1 was added dropwise thionyl chloride (3.65 mL, 50.1 mmol) on an ice bath (0° C.) under nitrogen atmosphere, which was stirred for 5 minutes at room temperature. The solvent was evaporated under a reduced pressure to obtain the title compound (4.2 g, 69.2%) as a hydrochloride.

reactant | (5-bromo-pyridin-2-yl)-methanol | 25.0 mmol, 4.70 g | BrC=1C=CC(=NC1)CO | C6H6BrNO
reactant | thionyl chloride | 50.1 mmol, 3.65 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 20.0 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Bromo-2-chloromethyl-pyridine hydrochloride | 4.2 g, 69.2% | Cl.BrC=1C=CC(=NC1)CCl | InChI=1S/C6H5BrClN.ClH/c7-5-1-2-6(3-8)9-4-5;/h1-2,4H,3H2;1H
